US08003647B2
To a solution of 4-(6-formylindol-1-yl)benzoic acid ethyl ester in a mixed solvent of tetrahydrofuran (3 mL) and methanol (10 mL) was added sodium borohydride (0.075 g) at 0° C., and this mixture was stirred at room temperature for 0.5 hours. This reaction mixture was poured into a saturated aqueous ammonium chloride solution and this mixture was extracted with ethyl acetate. This organic layer was washed with brine, and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure to give 4-(6-hydroxymethyl-indol-1-yl)benzoic acid ethyl ester (0.38 g). To a solution of 4-(6-hydroxymethyl-indol-1-yl)benzoic acid ethyl ester (0.09 g) in dichloromethane (1 mL) were added acetic anhydride (0.093 g) and pyridine (0.024 g), and this mixture was stirred at room temperature for 2 days. This mixture was poured into water and the resulting mixture was extracted with ethyl acetate. This organic layer was washed with brine, and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure. The residue was purified by column chromatography on silica gel (eluent: n-hexane/ethyl acetate) to give the title compound (0.068 g).

reactant | 4-(6-formylindol-1-yl)benzoic acid ethyl ester | C(C)OC(C1=CC=C(C=C1)N1C=CC2=CC=C(C=C12)C=O)=O | C18H15NO3
reactant | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
reactant | sodium borohydride | 0.075 g | [BH4-].[Na+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | methanol | 10 mL | CO | CH4O
product | 4-(6-hydroxymethyl-indol-1-yl)benzoic acid ethyl ester | 0.38 g | C(C)OC(C1=CC=C(C=C1)N1C=CC2=CC=C(C=C12)CO)=O | C18H17NO3
